US07384952B2
A mixture of ethyl 4,4,4-trifluoroacetoacetate (23.1 g), urea (7.54 g) and ethyl orthoformate (18.6 g) is stirred at 130° C. under argon gas atmosphere for 1.5 hours. To the reaction mixture is added xylene (100 mL) and the mixture is stirred at 140° C. for 17 hours. The reaction mixture is evaporated to remove solvent and the residue is diluted with methanol. The solution is treated with an activated carbon powder, concentrated in vacuo, and triturated in diisopropylether to give ethyl 2-hydroxy-4-trifluoromethyl-5-pyrimidinecarboxylate (20.3 g, yield; 69%) as crystals. MS (ESI) m/z; 235 [M−H]−

reactant | ethyl 4,4,4-trifluoroacetoacetate | 23.1 g | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | urea | 7.54 g | NC(=O)N | CH4N2O
reactant | ethyl orthoformate | 18.6 g | C(OCC)([O-])[O-]
solvent | xylene | 100 mL | C=1(C(=CC=CC1)C)C | C8H10
product | ethyl 2-hydroxy-4-trifluoromethyl-5-pyrimidinecarboxylate | 20.3 g, yield; 69% | OC1=NC=C(C(=N1)C(F)(F)F)C(=O)OCC | C8H7F3N2O3
